US08877774B2
Step 2. Methyl 1-(4-(bromomethyl)phenyl)cyclopropanecarboxylate
To a stirred solution of methyl 1-(p-tolyl)cyclopropanecarboxylate (3 g, 15.77 mmol) in acetonitrile (42 mL), was added N-bromosuccinimide (2.807 g, 15.77 mmol) followed by benzoyl peroxide (0.164 g, 0.473 mmol). The reaction was stirred at 80° C. for 2 hours 40 minutes and then allowed to cool to room temperature. The reaction mixture was diluted with water and extracted with dichloromethane (×3). The combined organic extracts were washed with brine and dried (magnesium sulfate), filtered and concentrated under reduced pressure to afford a red oil. The crude material was purified by silica gel column chromatography eluting with 0-9% ethyl acetate in iso-hexane to afford the title compound (2.478 g, 58%).

reactant | methyl 1-(p-tolyl)cyclopropanecarboxylate | 15.77 mmol, 3 g | C1(=CC=C(C=C1)C1(CC1)C(=O)OC)C | C12H14O2
reactant | N-bromosuccinimide | 15.77 mmol, 2.807 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 42 mL | C(C)#N | C2H3N
solvent | water | O | H2O
catalyst | benzoyl peroxide | 0.473 mmol, 0.164 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | Methyl 1-(4-(bromomethyl)phenyl)cyclopropanecarboxylate | 2.478 g, 58% | BrCC1=CC=C(C=C1)C1(CC1)C(=O)OC | C12H13BrO2
